US07893090B2
(RS)-1-[2-(4-Bromo-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]methanone
2-Methyl-5-(4-fluorophenyl)thiazole-4-carbonyl chloride (383 mg, 1.5 mmol) was added portionwise over 5 min. to a stirred solution of (RS)-4-bromo-2-piperidin-2-ylmethyl-1H-benzoimidazole, D39 (400 mg, 1.4 mmol) and triethylamine (0.57 ml, 5.0 mmol) in dichloromethane (20 ml) at room temperature. After 20 h the mixture was washed with saturated sodium hydrogen carbonate. The organic layer was dried (Na2SO4) and the solvent removed in vacuo. Chromatography (silica gel, 10-100% ethyl acetate-hexane then 1-10% methanol-ethyl acetate) afforded the title compound as a pale brown amorphous solid (620 mg, 89%).

reactant | 2-Methyl-5-(4-fluorophenyl)thiazole-4-carbonyl chloride | 1.5 mmol, 383 mg | CC=1SC(=C(N1)C(=O)Cl)C1=CC=C(C=C1)F | C11H7ClFNOS
reactant | (RS)-4-bromo-2-piperidin-2-ylmethyl-1H-benzoimidazole | BrC1=CC=CC=2NC(=NC21)CC2NCCCC2 | C13H16BrN3
reactant | triethylamine | 5.0 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (RS)-1-[2-(4-Bromo-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]methanone | 620 mg, 89% | BrC1=CC=CC=2NC(=NC21)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C24H22BrFN4OS
